US05877191
Step F: (3S,5R,6S,7S)-6-(4-Fluorophenyl)-3-(2-methoxy-5-(3-methylpyrazol-4-yl)phenyl)-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester
A solution of (3S,5R,6S,7S)-6-(4-fluorophenyl)-3-(2-methoxy-5-(1-(tert-butoxycarbonyl)-3-methylpyrazol-4-yl)phenyl)-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester (12 mg, 0.021 mmol) in 2.0 mL of dichloromethane was stirred at 0° C. and 2.0 mL of trifluoroacetic acid was added. After the solution had been stirred at 0° C. for 1.5 h, toluene (5 mL) was added and the solvent was evaporated at reduced pressure. The residue was purified by flash column chormatogrpahy on 1 g of silica gel, eluting with 25% ethyl acetate in dichloromethane to give 8 mg of colorless film (80% yield). 1H NMR (400 MHz, CDCl3): δ 7.60 (bs, 1H), 7.29 (dd, 2H, J=9, 6 Hz), 7.22 (dd, 1H, J=8, 2 Hz), 6.91 (d, 1H, J=8 Hz), 6.89 (t,,2H, J=9 Hz), 6.86 (d, 1H, J=2 Hz), 6.21 (t, 1H, J=2 Hz), 4.77 (dd, 1H, J=12, 2 Hz), 4.10 (dd, 1H, J=12, 2 Hz), 3.85 (s, 3H), 3.59 (s, 3H), 3.47 (dt, 1H, J=11, 8 Hz), 3.22 (d, 1H, J=11 Hz), 2.43-2.22 (m, 2H), 2.40 (s, 3H), 2.15-1.94 (m, 2H). Mass spectrum (NH3CI): m/e=436 M+1.

reactant | (3S,5R,6S,7S)-6-(4-fluorophenyl)-3-(2-methoxy-5-(1-(tert-butoxycarbonyl)-3-methylpyrazol-4-yl)phenyl)-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester | 0.021 mmol, 12 mg | COC(=O)[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=C(C=CC(=C2)C=2C(=NN(C2)C(=O)OC(C)(C)C)C)OC)CC1)C1=CC=C(C=C1)F | C32H37FN2O6
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | (3S,5R,6S,7S)-6-(4-Fluorophenyl)-3-(2-methoxy-5-(3-methylpyrazol-4-yl)phenyl)-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester | 80% yield | COC(=O)[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=C(C=CC(=C2)C=2C(=NNC2)C)OC)CC1)C1=CC=C(C=C1)F | C27H29FN2O4
